USH0000168
2-Difluoromethylthio-N-[N-( 4,6-dimethoxy-1,3,3-triazin-2-yl)-N-methylaminocarbonyl]benzenesulfonamide
To 0.80 g of 4,6-dimethoxy-2-methylamino-1,3,5-triazine in 25 ml of dry methylene chloride was added at ambient temperature 1.33 g of 2-difluoromethylthiobenzenesulfonyl isocyanate in 15 ml of methylene chloride. The reaction mixture was stirred for 16 hours and the resultant precipitate removed by filtration. It melted at 158°-164°, showed absorption peaks by Nuclear Magnetic Resonance (60MC) at:

reactant | 4,6-dimethoxy-2-methylamino-1,3,5-triazine | 0.80 g | COC1=NC(=NC(=N1)OC)NC | C6H10N4O2
reactant | 2-difluoromethylthiobenzenesulfonyl isocyanate | 1.33 g | FC(SC1=C(C=CC=C1)S(=O)(=O)N=C=O)F | C8H5F2NO3S2
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-Difluoromethylthio-N-[N-( 4,6-dimethoxy-1,3,3-triazin-2-yl)-N-methylaminocarbonyl]benzenesulfonamide | FC(SC1=C(C=CC=C1)S(=O)(=O)NC(=O)N(C)C1=NC(=CC(=N1)OC)OC)F | C15H16F2N4O5S2
